US05364950
A 200 mL round bottom flask equipped with a magnetic stirring bar was charged with a solution of 0.86 g. of 1-hydroxyamylphosphonic acid, 1.97 g. of 1,2-epoxydodecane and 51 g. of n-valeraldehyde. No new phosphorus compounds were detected by 31PNMR after stirring for two weeks at room temperature. After an additional week at room temperature, there was no apparent reaction between the 1-hydroxyamylphosphonic acid and 1,2-epoxydodecane as ascertained from the 31PNMR. The reaction mixture was then washed three times with 5% sodium bicarbonate solution. The extractate contained no phosphorus component evident in the 31PNMR. The extractate was washed once with distilled water, dried over anhydrous magnesium sulfate and stripped on a rotary evaporator to give a colorless oil weighing 10.1 g. A major high boiling component of this solution, as determined by gas chromatographic mass spectroscopy was 2-n-amyl-4-n-decyl-1,3-dioxolane. These results indicate that no apparent reaction of 1-hydroxyamylphosphonic acid with 1,2-epoxydodecane occurs under conditions where 1,2-epoxydodecane reacts with the n-valeraldehyde to form 2-n-butyl-4-n-decyl-1,3-dioxolane.

reactant | 1-hydroxyamylphosphonic acid | OC(CCCC)P(O)(O)=O | C5H13O4P
reactant | 1,2-epoxydodecane | O1CC1CCCCCCCCCC | C12H24O
reactant | n-valeraldehyde | CCCCC=O | C5H10O
reactant | phosphorus | [P] | P
product | 2-n-butyl-4-n-decyl-1,3-dioxolane | C(CCC)C1OCC(O1)CCCCCCCCCC | C17H34O2
